US07037905B2
4,4,5,5-Tetramethyl-2-(4-methylthiophen-2-yl)-[1,3,2]dioxaborolane
The title compound (54%, oil) was prepared from 4-methylthiophen-2-yl-boronic acid and pinacol.

reactant | 4-methylthiophen-2-yl-boronic acid | CC=1C=C(SC1)B(O)O | C5H7BO2S
reactant | pinacol | OC(C)(C)C(C)(C)O | C6H14O2
product | 4,4,5,5-Tetramethyl-2-(4-methylthiophen-2-yl)-[1,3,2]dioxaborolane | 54% | CC1(OB(OC1(C)C)C=1SC=C(C1)C)C | C11H17BO2S
